US09428508B2
To a solution of 6-methoxy-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one (6.8 g, 35.6 mmol) in acetonitrile (50 ml) at −10° C. was added trifluoromethanesulfonic anhydride (15.0 mL, 106.8 mmol) dropwise. After stirring for 20 minutes, potassium nitrate (3.94 g, 39.0 mmol) was added in portions, and the mixture was slowly warmed to room temperature and stirred for another 5 hours, poured into saturated sodium bicarbonate in ice water (100 mL) and adjusted the pH to 9. The aqueous phase was extracted with ethyl acetate and the organic extracts were combined, washed with water, dried over anhydrous sodium sulfate and concentrated in vacuum. The residue was purified by silica column chromatography (petroleum ether/ethyl acetate 10/1 to 1/2) to afford the product 6-methoxy-7-nitro-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one as a yellow solid (4.68 g, yield 55.7%). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.01 (s, 1H), 7.80-7.83 (d, 1H, J=8.8 Hz), 6.88-6.90 (d, 1H, J=8.8 Hz), 3.85 (s, 3H), 2.73-2.77 (t, 2H, J=7.2 Hz), 2.25-2.27 (t, 2H, J=6.8 Hz), 2.15-2.20 (m, 2H).

reactant | 6-methoxy-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | 35.6 mmol, 6.8 g | COC1=CC=CC=2NC(CCCC21)=O | C11H13NO2
reactant | trifluoromethanesulfonic anhydride | 106.8 mmol, 15.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | potassium nitrate | 39.0 mmol, 3.94 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-methoxy-7-nitro-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | 4.68 g, yield 55.7% | COC1=C(C=CC=2NC(CCCC21)=O)[N+](=O)[O-] | C11H12N2O4
